US07893056B2
[(2R)-3-{2-[6-(1-Azetidinyl)-5-fluoro-2-methyl-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (3.9 g, 8.0 mmol) was dissolved in 50 mL of MeOH and degassed with argon. 10% Pd/C (400 mg) was added, and the contents were placed under a hydrogen balloon for 4.5 h. The contents were then degassed with argon and filtered through Celite, and the Celite pad was washed with DCM and MeOH. The resulting filtrate was concentrated in vacuo to provide the pure [(2R)-3-{2-[6-(1-azetidinyl)-5-fluoro-2-methyl-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (3.1 g, 98%). LCMS: (M+H)+: 395.

reactant | [(2R)-3-{2-[6-(1-Azetidinyl)-5-fluoro-2-methyl-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 8.0 mmol, 3.9 g | N1(CCC1)C1=C(C(=NC(=N1)C)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F | C25H33FN6O3
solvent | MeOH | 50 mL | CO | CH4O
product | [(2R)-3-{2-[6-(1-azetidinyl)-5-fluoro-2-methyl-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 3.1 g, 98% | N1(CCC1)C1=C(C(=NC(=N1)C)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F | C18H27FN6O3
